US05140055
Into a four-necked flask of 2 l capacity were charged 54.0 g (0.5 mol) of o-phenylenediamine, 142 g (0.5 mol) of stearic acid and 500 ml of 4N-hydrochloric acid, and a reaction was effected for 5 hours while refluxing the reaction solution. Then, 500 ml of water was added to the reaction mass, and the resulting solution was neutralized up to a pH of 9.2 at a temperature of not higher than 15° C. with a 20% aqueous solution of sodium hydroxide. Then, the resulting mixture was stirred at a temperature of not higher than 15° C. for 1 hour, and then filtered. The filter cake was washed with water to obtain the aimed 2-heptadecylbenzimidazole in an yield of 139.5 g (78.4%).

reactant | o-phenylenediamine | 0.5 mol, 54.0 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | stearic acid | 0.5 mol, 142 g | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 500 ml | O | H2O
product | 2-heptadecylbenzimidazole | C(CCCCCCCCCCCCCCCC)C=1NC2=C(N1)C=CC=C2 | C24H40N2
